US04335119
2. Preparation of 2,4,7-triamino-6-(p-2-hydroxyethoxyphenyl)-pteridine
460 mg metallic sodium were dissolved while stirring in 150 ml 2-ethoxyethanol. Thereafter to it was added while stirring 3.1 g (0.02 mole) of triamino-nitrosopyrimidine and 2.5 g (0.02 mole) p-(2-hydroxyethoxy)-phenyl acetonitrile and the mixture was stirred and heated in the water bath at 60° C. The color of the mixture changed from violet to light brown. After 14 hours of stirring, the reaction was stopped. The mixture is then allowed to cool. Unreacted 2,4,6-triamino-nitrosopyrimidine is filtered and the clear solution is evaporated and its volume reduced. The precipitate was taken up in hot acetone and by addition of petroleum ether, the raw product precipitated. The purification consisted of one recrystallization in butanol and also by passage through a silica gel column (Kieselgel 60, Merck). The title compound is obtained as yellowish-brown crystals.

reactant | sodium | 460 mg | [Na] | Na
reactant | triamino-nitrosopyrimidine | 0.02 mole, 3.1 g | NC1=C(C(=NC(=N1)N=O)N)N | C4H6N6O
reactant | p-(2-hydroxyethoxy)-phenyl acetonitrile | 0.02 mole, 2.5 g | OCCOC1=CC=C(C=C1)CC#N | C10H11NO2
reactant | water | O | H2O
solvent | 2-ethoxyethanol | 150 ml | C(C)OCCO | C4H10O2
product | 2,4,7-triamino-6-(p-2-hydroxyethoxyphenyl)-pteridine | NC1=NC2=NC(=C(N=C2C(=N1)N)C1=CC=C(C=C1)OCCO)N | C14H15N7O2
